US05240925
b. Preparation of 1-[2-Cyano-2-(2-methoxyphenyl)-3-(2-pyridyl)propyl]-1,2,4-triazole
To a flask was added 5.0 g. (0.021 mole) of 2-(2-methoxyphenyl)-3-(2-pyridyl)propionitrile, 5.0 g. (0.031 mole) of 1-(chloromethyl)-1,2,4-triazole, and 150 ml. of DMSO, followed by 10 g. (0.125 mole) of 50% aqueous sodium hydroxide over 30 minutes. The reaction exothermed to 40° C. and was stirred for an additional two hours. After cooling, water was added and the organic material extracted with ether. The combined ether extracts were then washed with water, dried using magnesium sulfate, filtered, and the ether removed by rotary evaporation to obtain 3.0 g. of organic residue which was recrystallized from ether yielding 1.3 g. of the product as a grey solid, melting point 155°-158° C.

reactant | 2-(2-methoxyphenyl)-3-(2-pyridyl)propionitrile | 0.021 mole | COC1=C(C=CC=C1)C(C#N)CC1=NC=CC=C1 | C15H14N2O
reactant | 1-(chloromethyl)-1,2,4-triazole | 0.031 mole | ClCN1N=CN=C1 | C3H4ClN3
reactant | DMSO | CS(=O)C | C2H6OS
reactant | sodium hydroxide | 0.125 mole | [OH-].[Na+]
solvent | water | O | H2O
product | 1-[2-Cyano-2-(2-methoxyphenyl)-3-(2-pyridyl)propyl]-1,2,4-triazole | C(#N)C(CN1N=CN=C1)(CC1=NC=CC=C1)C1=C(C=CC=C1)OC | C18H17N5O
